US06225310B1
a) N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-cyclohexylmethylthiourea
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and cyclohexylmethyl isothiocyanate by a procedure analogous to the procedure described in example 3-a; a syrup was obtained (yield 8%), 1H-NMR (DMSO-d6): δ0.95 (m, 2H), 1.25 (m, 3H), 1.70 (m, 6H), 3.45 (d, 2H, CH2), 4.45 (br, HDO+NH), 6.65 (s, 1H, H4).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | cyclohexylmethyl isothiocyanate | C1(CCCCC1)CN=C=S | C8H13NS
product | N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-cyclohexylmethylthiourea | yield 8% | NC1=C(SC(=C1)Cl)S(=O)(=O)NC(=S)NCC1CCCCC1 | C12H18ClN3O2S3
